US06552017B1
A solution of borane in tetrahydrofuran (1M, 33 mL, 33 mmol) was added dropwise to a stirred solution of ethyl (6bR, 10aS)-3-methyl-2-oxo-2,3,6b,9,10,10a-hexahydro-1H-pyrido[3′,4′:4,5]pyrrolo[1,2,3-de]quinoxaline-8(7H)-carboxylate (5.24 g, 16.6 mmol) in anhydrous tetrahydrofuran (25 mL) under nitrogen. After the addition was complete, the mixture was stirred and heated at reflux for 1 h, cooled and treated with 6N hydrochloric acid (15 mL). It was then heated under reflux for 30 min, cooled and evaporated to dryness under reduced pressure. The residue was dissolved in a minimum quantity of water and the solution basified with 1N sodium hydroxide and extracted with dichloromethane (2×). The extract was washed with water, dried over magnesium sulfate, and concentrated to yield 4.65 g (93%) of ethyl (6bR,10aS)-3-methyl-2,3,6b,9,10,10a-hexahydro-1H-pyrido[3′,4′:4,5]pyrrolo[1,2,3-de]quinoxaline-8(7H)-carboxylate as a viscous liquid. 1H NMR (CDCl3, 300 MHz) δ 1.28 (t, J=7 Hz, 3H), 1.68-1.78 (m, 1H), 1.78-1.93 (m, 2H), 2.81-2.90 (m, 2H), 2.86 (s, 3H), 3.05-3.26 (m, 2H), 3.26-3.38 (m, 2H), 3.56-3.75 (m, 2H), 3.79-3.87 (m, 1H), 4.16 (q, J=7 Hz, 2H), 6.41 (d, J=8.1 Hz, 1H), 6.61 (d, J=8.1 Hz, 1H), 6.67 (t, J=8.1 Hz, 1H) ppm. MS (CI): 302 (M+H+).

reactant | borane | B | BH3
reactant | ethyl (6bR, 10aS)-3-methyl-2-oxo-2,3,6b,9,10,10a-hexahydro-1H-pyrido[3′,4′:4,5]pyrrolo[1,2,3-de]quinoxaline-8(7H)-carboxylate | 16.6 mmol, 5.24 g | CN1C(CN2C=3C(=CC=CC13)[C@H]1[C@@H]2CCN(C1)C(=O)OCC)=O | C17H21N3O3
reactant | hydrochloric acid | 6N, 15 mL | Cl | ClH
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 33 mmol, 1M, 33 mL | O1CCCC1 | C4H8O
product | ethyl (6bR,10aS)-3-methyl-2,3,6b,9,10,10a-hexahydro-1H-pyrido[3′,4′:4,5]pyrrolo[1,2,3-de]quinoxaline-8(7H)-carboxylate | 4.65 g, 93% | CN1CCN2C=3C(=CC=CC13)[C@H]1[C@@H]2CCN(C1)C(=O)OCC | C17H23N3O2
